.lib $PDK_ROOT/sky130A/libs.tech/ngspice/sky130.lib.spice tt

.param vdd = 1.8 

.param vlow = 'vdd*0.2'
.param vhigh = 'vdd*0.8'
.param vmid = 'vdd*0.5'

vdd vdd 0 dc {vdd}
vin vin 0 pulse(0 {vdd} 0 20p 20p 1ns 2ns)

xnot1 vin vout vdd 0 not1
xnot2 vout nc vdd 0 not1

.include not1.cir

.tran 1ps 3ns 0 1ps

.meas tran trise trig v(vout) val={vlow} rise=1 targ v(vout) val={vhigh} rise=1
.meas tran tfall trig v(vout) val={vhigh} fall=1 targ v(vout) val={vlow} fall=1

.meas tran tplh trig v(vin) val={vmid} fall=1 targ v(vout) val={vmid} rise=1
.meas tran tphl trig v(vin) val={vmid} rise=1 targ v(vout) val={vmid} fall=1

.control
run
set gnuplot_terminal=png/quit

gnuplot q1_vout_vin vin vout
+ title 'vout vs vin'
+ xlabel 'time (sec)' ylabel 'voltage (v)'

dc vin 0 1.8 0.01

set nolegend
gnuplot q1_dc_transfer_curve v(vout) vs v(vin)
+ title 'vout vs vin'
+ xlabel 'vin (v)' ylabel 'vout (v)'

let vout = v(vout)
let vin = v(vin)

let slope = deriv(v(vout))

meas dc vm find vin when vout = vin
meas dc vil find vin when slope = -1 cross = 1
meas dc vih find vin when slope = -1 cross = 2

let nml = vil
print nml

let nmh = 1.8 - vih
print nmh

.endc
